US03962247
In a 100-ml. three necked flask was placed 11.5 g. of N-(α-cyano-4-methoxybenzyl)piperazine and 40 ml. of methanol to obtain a homogenous solution. To the resulting solution was added dropwise 5.96 g. of ethyl chloroformate over a period of about 70 minutes with stirring while the temperature was kept at about 20°C. After dropping, the internal temperature was raised to 40° to 45°C., and then the mixture was further stirred for 2 hours. The solution was concentrated under reduced pressure and 500 ml. of water was added thereto. This solution was made alkaline with the aid of sodium carbonate with cooling and extracted with benzene. The benzene layer was washed with dilute hydrochloric acid and water, and dried over sodium sulfate. The solvent was distilled off to afford 9.7 g. of N-(α-cyano-4-methoxybenzyl)-N'-ethoxycarbonylpiperazine as an oily substance. This product was dissolved in benzene and the resultant solution was saturated with dry hydrochloric gas to separate crystal which was collected by filtration. Recrystallization from acetone afforded N-(α-cyano-4-methoxybenzyl)-N' -ethoxycarbonylpiperazine hydrochloride having a melting point of 170°C.

reactant | N-(α-cyano-4-methoxybenzyl)piperazine | C(#N)C(C1=CC=C(C=C1)OC)N1CCNCC1 | C13H17N3O
reactant | methanol | CO | CH4O
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | N-(α-cyano-4-methoxybenzyl)-N'-ethoxycarbonylpiperazine | C(#N)C(C1=CC=C(C=C1)OC)N1CCN(CC1)C(=O)OCC | C16H21N3O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(α-cyano-4-methoxybenzyl)-N' -ethoxycarbonylpiperazine hydrochloride | Cl.C(#N)C(C1=CC=C(C=C1)OC)N1CCN(CC1)C(=O)OCC | InChI=1S/C16H21N3O3.ClH/c1-3-22-16(20)19-10-8-18(9-11-19)15(12-17)13-4-6-14(21-2)7-5-13;/h4-7,15H,3,8-11H2,1-2H3;1H
